US06465505B1
Synthesis of 4-(2,6-dimethyl-4-fluorobenzylamino)-2-methylbenzimidazole
4-amino-2-methylbenzimidazole (0.6 g, 4,1 mmol) was dissolved in acetonitrile (10 ml). To the solution were added 2,6-dimethyl-4-fluoro-benzylbenzylbromide (0.89 g, 4,1 mol) and potassium carbonate (0.68 g, 4.9 mmol) and the mixture was warmed at 70-80° C. for 3 h. The reaction mixture was cooled to room temperature and methylene chloride (25 ml) and water (25 ml) was added. The organic layer was separated, dried over sodium sulfate and was evaporated under reduced pressure. The residue was crystallized twice from ethyl acetate and was purified by column chromatography on silica gel, using methylene chloride containing 10% methanol as eluent. There was obtained 0.26 g (22%) of the title compound.

reactant | 4-amino-2-methylbenzimidazole | 4,1 mmol, 0.6 g | NC1=CC=CC=2N=C(NC21)C | C8H9N3
reactant | 2,6-dimethyl-4-fluoro-benzylbenzylbromide | 4,1 mol, 0.89 g | CC1=C(CC(C2=CC=CC=C2)Br)C(=CC(=C1)F)C | C16H16BrF
reactant | potassium carbonate | 4.9 mmol, 0.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 25 ml | O | H2O
product | 4-(2,6-dimethyl-4-fluorobenzylamino)-2-methylbenzimidazole | 0.26 g, 22% | CC1=C(CNC2=CC=CC=3N=C(NC32)C)C(=CC(=C1)F)C | C17H18FN3
